US07378409B2
Example 2ah, Step 1: A sample of 2-amino-N-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexyl)acetamide was combined with 4,6-dichloroquinazoline (1.2 equivalents) and triethylamine (1.2 equivalents) in ethanol. The resultant solution was heated at 100° C. in the microwvae for 1 hr. The reaction mixture was concentrated and the residue chromatographed on silica gel (eluting with 2-8% NH4OH/MeOH/CH2Cl2) to give N-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexyl)-2-(6-chloroquinazolin-4-ylamino)acetamide. MS found: (M+H)+=446.44; 1H NMR (400 MHz, CDCl3) δ(TMS): 0.52-1.77 (m, 25H), 2.36-2.48 (m, 1H), 3.92-4.06 (m, 3H), 6.52-6.63 (M, 1H), 7.37-7.55 (m, 3H), 7.70-7.73 (m, 1H), 7.36-7.41 (m, 1H).

reactant | 2-amino-N-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexyl)acetamide | NCC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(C)(C)C)CCCC | C16H33N3O
reactant | 4,6-dichloroquinazoline | 1.2 equivalents | ClC1=NC=NC2=CC=C(C=C12)Cl | C8H4Cl2N2
reactant | triethylamine | 1.2 equivalents | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | N-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexyl)-2-(6-chloroquinazolin-4-ylamino)acetamide | C(CCC)[C@H]1[C@H](CC[C@H](C1)NC(C)(C)C)NC(CNC1=NC=NC2=CC=C(C=C12)Cl)=O | C24H36ClN5O
